US04995899
124.2 g (0.75 mole) of methyl 2-methyl-5-oxohexanoate in 450 ml of n-heptane are initially taken. 52.2 g (0.87 mole) of ethylenediamine are then added dropwise at room temperature in the course of 10 minutes. As a result of the exothermic reaction, the temperature increases to 38° C. 49 ml of the lower phase (aqueous methanol) are separated off. The mixture is cooled to 2° C. and stirred for 1 hour, and the product is filtered off under suction, washed with cold n-heptane and dried. 116.3 g of racemic 5,8-dimethyl-9-oxo-1,4-diazabicyclo[4.3.0]nonane are obtained.

reactant | methyl 2-methyl-5-oxohexanoate | 0.75 mole, 124.2 g | CC(C(=O)OC)CCC(C)=O | C8H14O3
reactant | ethylenediamine | 0.87 mole, 52.2 g | C(CN)N | C2H8N2
solvent | n-heptane | 450 ml | CCCCCCC | C7H16
product | racemic 5,8-dimethyl-9-oxo-1,4-diazabicyclo[4.3.0]nonane | 116.3 g | CC1NCCN2C(C(CC12)C)=O | C9H16N2O
